US06063545
1,3,5-Tris-methanesulfonyloxy-benzene
39.8 g (0.33 mol) of methanesulfonic acid chloride were added dropwise at 0° C. within the course of 30 minutes to a solution of 12.6 g (0.10 mol) of phloroglucinol and 101 g (1.0 mol) of N-methylmorpholine in 200 ml of dry tetrahydrofuran in such a way that the temperature did not rise above 10° C. After the dropwise addition, the ice bath was removed, and the mixture was warmed to room temperature and stirred for 2 hours at this temperature. The mixture was then slowly added dropwise with continuous stirring to 3 l of ice water, and the resulting precipitate was filtered off with suction and washed until neutral with water. After drying, this gave 32.9 g (91%) of a colorless powder of melting point 145 to 149° C. Recrystallization from an isopropanol/acetone solvent mixture gave colorless, highly light-refracting platelets of melting point 150° C.

reactant | methanesulfonic acid chloride | 0.33 mol, 39.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | phloroglucinol | 0.10 mol, 12.6 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | N-methylmorpholine | 1.0 mol, 101 g | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,3,5-Tris-methanesulfonyloxy-benzene | CS(=O)(=O)OC1=CC(=CC(=C1)OS(=O)(=O)C)OS(=O)(=O)C | C9H12O9S3
